US04739123
In a four necked 100 ml flask equipped with a condenser, a dropping funnel and a thermometer, triethylamine (20.0 g, 198 mmol) was charged and warmed to 60° C. Monochloromethyl 2-trifluoromethyl-3,3,3-trifluoropropanoate (4.88 g, 20 mmol) was dropwise added thereto while stirring. The reaction was continued at the same temperature as above for 2.5 hours while stirring. The gas evolved from a top of the condenser was washed with an alkaline solution, dried with alumina and cooled. The resultant liquid was distilled to give 2-trifluoromethyl-3,3,3-trifluoropropene (2.36 g). Yield, 72 %.

reactant | triethylamine | 198 mmol, 20.0 g | C(C)N(CC)CC | C6H15N
reactant | Monochloromethyl 2-trifluoromethyl-3,3,3-trifluoropropanoate | 20 mmol, 4.88 g | FC(C(C(=O)OCCl)C(F)(F)F)(F)F | C5H3ClF6O2
product | 2-trifluoromethyl-3,3,3-trifluoropropene | 2.36 g | FC(C(=C)C(F)(F)F)(F)F | C4H2F6
